US06008196
d) Preparation of N-[3-(3-pyridyl)propanoyl]-L-valyl-N-[3,3,4,4,4-pentafluoro-1-(1-methylethyl)-2-oxobutyl]-L-prolinamide
Suspend 3-(3-pyridyl)propionic acid (174 mg, 1.15 mmol, Walker, F. A. et al., J. Amer. Chem. Soc., 102, 5530-5538 (1980)) in methylene chloride (15 mL). Add N-methylmorpholine (0.38 mL, 3.45 mmol) and triethylamine (0.32 mL, 2.30 mmol), and cool the resulting clear, colorless solution to -18° C. Add isobutylchloroformate (0.15 mL, 1.15 mmol) and stir for 20 minutes. Subsequently add N-methylmorpholine (0.13 mL, 1.15 mmol) and H-Val-Pro-Val-CF2CF3.hydrochloride (520 mg, 1.15 mmol) and stir at -20° C. for 1 hour. Allow reaction mixture to warm to room temperature, dilute the reaction mixture with additional methylene chloride (35 mL) and successively wash with 1N HCl (3×20 mL), saturated NaHCO3 (2×20 mL), and brine (1×20 mL). Dry and concentrate the crude product. Purify the crude product by flash chromatography (75:25::acetone:EtOAc) to give the title compound as a white solid foam. (Yield: 470 mg, 74%, 3:1::LLL:LLD).

reactant | 3-(3-pyridyl)propionic acid | N1=CC(=CC=C1)CCC(=O)O | C8H9NO2
reactant | N-methylmorpholine | 3.45 mmol, 0.38 mL | CN1CCOCC1 | C5H11NO
reactant | triethylamine | 2.30 mmol, 0.32 mL | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 1.15 mmol, 0.15 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | N-methylmorpholine | 1.15 mmol, 0.13 mL | CN1CCOCC1 | C5H11NO
reactant | H-Val-Pro-Val-CF2CF3.hydrochloride | 1.15 mmol, 520 mg | N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)N[C@@H](C(C)C)C(=O)C(F)(F)C(F)(F)F)CCC1.Cl
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 35 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(3-pyridyl)propanoyl]-L-valyl-N-[3,3,4,4,4-pentafluoro-1-(1-methylethyl)-2-oxobutyl]-L-prolinamide | N1=CC(=CC=C1)CCC(=O)N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)NC(C(C(C(F)(F)F)(F)F)=O)C(C)C)CCC1 | C25H33F5N4O4
